US09029406B2
Nα-(tert-Butoxycarbonyl)-N-methoxy-N-methyl-L-phenylalaninamide
1000 mg (3.77 mmol) N-(tert-butoxycarbonyl)-L-phenylalanine was placed in 10 mL dichloromethane and mixed with 733 mg (4.52 mmol) 1,1′-carbonyldiimidazole. The batch was stirred for 15 min until the evolution of gas had stopped. Next the mixture was mixed with 441 mg (4.52 mmol) N,O-dimethylhydroxylamine hydrochloride and 657 μL (3.77 mmol) N,N-diisopropylethylamine and stirred for 1 hour at RT. Next the batch was diluted with dichloromethane and washed with distilled water, 0.5N hydrochloric acid and saturated sodium chloride solution in succession. The organic phase was separated and the combined aqueous phases were re-extracted with ethyl acetate. The combined organic phases were dried over magnesium sulfate and concentrated in vacuo, yielding 1090 mg (93% of the theoretical) of the title compound.

reactant | N-(tert-butoxycarbonyl)-L-phenylalanine | 3.77 mmol, 1000 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 1,1′-carbonyldiimidazole | 4.52 mmol, 733 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.52 mmol, 441 mg | Cl.CNOC
reactant | N,N-diisopropylethylamine | 3.77 mmol, 657 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Nα-(tert-Butoxycarbonyl)-N-methoxy-N-methyl-L-phenylalaninamide | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)OC | C16H24N2O4
